US04013660
3-chloro-7-methyl-6-piperidino-7H-indolo[3,2-b][1,5]benzoxazepine
A solution of 5.0g of 3-chloro-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one in 60ml of methylene chloride was cooled to 15° and treated with 30ml of a 1N solution of triethyloxonium fluoroborate in methylene chloride. The mixture was stirred for 48 hrs. at ambient temperature. The precipitated solid was filtered, washed with methylene chloride and added to 10ml of piperidine, and the clear solution was heated for 8 hrs. on the steam bath. The mixture was diluted with water, and the precipitated solid was filtered and recrystallized from ethylacetate, mp. 244°-5°.

reactant | 3-chloro-7-methyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one | 5.0g | ClC1=CC=C2C(=C1)NC1=C2OC2=C(N(C1=O)C)C=CC=C2 | C16H11ClN2O2
reactant | triethyloxonium fluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | 60ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-7-methyl-6-piperidino-7H-indolo[3,2-b][1,5]benzoxazepine | ClC=1C=CC=2C(C1)=NC=1C2OC2=C(N(C1N1CCCCC1)C)C=CC=C2 | C21H20ClN3O
